US08293781B2
Methyl (2E)-3-(1-phenyl-1H-indol-5-yl)-2-propenoate
The compound obtained at Reference Example 1 (1.1 g), palladium acetate (83 mg), tris(2-methylphenyl)phosphine (225 mg), triethylamine (33 ml) and methyl acrylate (1.08 ml) were mixed and heated to stir in a sealed tube at 120° C. for 5 hours. The insolubles were filtered off, the filtrate was distilled off in vacuo and the residue obtained was purified by silica gel column chromatography (hexane:ethyl acetate=9:1 to 1:1) to afford the above-identified compound (1.05 g).

reactant | tris(2-methylphenyl)phosphine | 225 mg | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
reactant | methyl acrylate | 1.08 ml | C(C=C)(=O)OC | C4H6O2
reactant | triethylamine | 33 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 83 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl (2E)-3-(1-phenyl-1H-indol-5-yl)-2-propenoate | 1.05 g | C1(=CC=CC=C1)N1C=CC2=CC(=CC=C12)/C=C/C(=O)OC | C18H15NO2
